US06713474B2
A mixture of 2-{4-[4-amino-5-(4-phenoxyphenyl)-7H-pyrrolo[2,3-d]pyrimidin-7-yl]cyclohexyliden}acetic acid (0.60 g, 1.36 mmol), 10% palladium on activated carbon (0.18 g), 1M aqueous sodium hydroxide (9 mL) and ethanol (60 mL) was hydrogenated under an atmosphere of hydrogen (60 psi) for 20 hours and filtered through a pad of celite. The filtrate was evaporated under reduced pressure to yield a white solid which was taken into water (20 mL) followed by addition of 1M acetic acid (20 mL) to precipitate the product. The suspension was then filtered and the solid was lyophilized to yield 2-{4-[4-amino-5-(4-phenoxyphenyl)-7H-pyrrolo[2,3-d]pyrimidin-7-yl]cyclohexyl}acetic acid (0.51 g, 1.15 mmol) as a white solid: 1H NMR (DMSO-d6, 400 MHz) δ 11.99(br, 1H), 8.13(s, 1H), 7.60 (s, 1H), 7.49(d, 2H), 7.41(t, 2H), 7.15(t, 1H), 7.09(m, 4H), 6.09(br, 2H), 4.60 (m, 1H), 2.20-1.24(m, 11H); RP-HPLC (Hypersil C18, 5 μm, 100 A, 250×4.6 mm; 25%-100% acetonitrile-0.05M ammonium acetate over 10 min, 1 mL/min) Rt 9.62 min. MS: MH+ 443.

reactant | 2-{4-[4-amino-5-(4-phenoxyphenyl)-7H-pyrrolo[2,3-d]pyrimidin-7-yl]cyclohexyliden}acetic acid | 1.36 mmol, 0.60 g | NC=1C2=C(N=CN1)N(C=C2C2=CC=C(C=C2)OC2=CC=CC=C2)C2CCC(CC2)=CC(=O)O | C26H24N4O3
reactant | sodium hydroxide | 1M, 9 mL | [OH-].[Na+]
reactant | ethanol | 60 mL | C(C)O | C2H6O
reactant | water | 20 mL | O | H2O
catalyst | palladium on activated carbon | 0.18 g | [Pd] | Pd
solvent | acetic acid | 1M, 20 mL | C(C)(=O)O | C2H4O2
product | 2-{4-[4-amino-5-(4-phenoxyphenyl)-7H-pyrrolo[2,3-d]pyrimidin-7-yl]cyclohexyl}acetic acid | 1.15 mmol, 0.51 g | NC=1C2=C(N=CN1)N(C=C2C2=CC=C(C=C2)OC2=CC=CC=C2)C2CCC(CC2)CC(=O)O | C26H26N4O3
